US09328099B2
Step C. 3-(Pyridin-4-ylamino)-1H-pyrazole-4-carboxamide
To a solution containing a mixture of 3-(pyridin-4-ylamino)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazole-4-carbonitrile and 5-(pyridin-4-ylamino)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazole-4-carbonitrile (150 mg, 0.5 mmol) in DMSO (1.2 mL) and EtOH (1.2 mL) was added 5M aqueous NaOH (0.7 mL, 3.3 mmol). The mixture was heated to 55° C., followed by the dropwise addition of 30% H2O2 (0.7 mL, 7.1 mmol). After 10 minutes, additional 30% H2O2 (0.30 mL, 3.4 mmol) was added dropwise. The mixture was maintained for 30 minutes before it was allowed to cool to ambient temperature. To the crude reaction mixture was added MeOH (1 mL) and 6N aqueous HCl (2 mL). The resulting mixture was heated at 55° C. for 1.5 hours. Additional 6N aqueous HCl (1 mL) was added and the mixture continued stirring for another 1 hour. The mixture was cooled to ambient temperature and carefully neutralized with 5N aqueous NaOH until pH 6-7. The mixture was then concentrated in vacuo to remove most of the solvent. To the slurry-like residue was added MeOH (20 mL), and the resulting mixture was sonicated for 5 minutes. The mixture was filtered to remove insoluble precipitate and the filtrate was concentrated in vacuo to afford crude residue containing the title compound, Intermediate #34-1, which was used without further purification.

reactant | 3-(pyridin-4-ylamino)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazole-4-carbonitrile | N1=CC=C(C=C1)NC1=NN(C=C1C#N)COCC[Si](C)(C)C | C15H21N5OSi
reactant | 5-(pyridin-4-ylamino)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazole-4-carbonitrile | 0.5 mmol, 150 mg | N1=CC=C(C=C1)NC1=C(C=NN1COCC[Si](C)(C)C)C#N | C15H21N5OSi
reactant | NaOH | 3.3 mmol, 5M, 0.7 mL | [OH-].[Na+]
reactant | H2O2 | 7.1 mmol, 0.7 mL | OO | H2O2
reactant | H2O2 | 3.4 mmol, 0.30 mL | OO | H2O2
reactant | HCl | 6N, 2 mL | Cl | ClH
reactant | HCl | 6N, 1 mL | Cl | ClH
reactant | NaOH | 5N | [OH-].[Na+]
solvent | DMSO | 1.2 mL | CS(=O)C | C2H6OS
solvent | EtOH | 1.2 mL | CCO | C2H6O
solvent | MeOH | 1 mL | CO | CH4O
product | 3-(Pyridin-4-ylamino)-1H-pyrazole-4-carboxamide | N1=CC=C(C=C1)NC1=NNC=C1C(=O)N | C9H9N5O
